US04621150
Methyl 3-methyl-3-(4-isobutylphenyl)pyruvate (1.19 g, 4.8 mmol) was dissolved in a 1N sodium hydroxide aqueous solution (15 ml), and a 35% hydrogen peroxide aqueous solution (5.0 ml) was dropwise added under cooling (0° C.) and stirring. The temperature of the mixture was returned to room temperature, and the mixture was stirred overnight. Then, mixture was acidified with hydrochloric acid and extracted with ether, whereby 2-(4-isobutylphenyl)propionic acid (0.78 g, yield: 79%) was obtained.

reactant | Methyl 3-methyl-3-(4-isobutylphenyl)pyruvate | 4.8 mmol, 1.19 g | CC(C(C(=O)OC)=O)C1=CC=C(C=C1)CC(C)C | C15H20O3
reactant | hydrogen peroxide | 5.0 ml | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
product | 2-(4-isobutylphenyl)propionic acid | 0.78 g, yield: 79% | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)C | C13H18O2
